US04578395
One gram of diketen was added dropwise to a stirred solution of 3-(N-benzyl-N-methylamino)-2,2-dimethyl propanol in 1 ml of benzene at 70° C. Sturing was continued for 1.5 hours at 70° C. after the addition. The solvent was distilled off to leave an oily residue. The residue was chromatographed over silica gel to afford 2.8 g of desired 3-(N-benzyl-N-methylamino)-2,2-dimethylpropyl acetoacetate (oily substance).

reactant | diketen | One gram | C=C1CC(=O)O1 | C4H4O2
reactant | 3-(N-benzyl-N-methylamino)-2,2-dimethyl propanol | C(C1=CC=CC=C1)N(C)CC(CO)(C)C | C13H21NO
solvent | benzene | 1 ml | C1=CC=CC=C1 | C6H6
product | 3-(N-benzyl-N-methylamino)-2,2-dimethylpropyl acetoacetate | 2.8 g | C(CC(=O)C)(=O)OCC(CN(C)CC1=CC=CC=C1)(C)C | C17H25NO3
